US06689806B1
A mixture of 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (80 mg, 0.45 mmol) and 2-pyridinecarboxaldehyde (60 mg, 0.56 mmol) in 1% of piperidine in ethanol (5 mL) was heated at 90° C. for 8 hours. The reaction mixture was concentrated and the residue was chromatographed on a column of silica gel. It was then triturated with ethyl acetate and hexane to give 55 mg (46%) of 4-(2-hydroxy-ethyl)-3-pyridin-2-ylmethylene-1,3-dihydro-indol-2-one.

reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | 0.45 mmol, 80 mg | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
reactant | 2-pyridinecarboxaldehyde | 0.56 mmol, 60 mg | N1=C(C=CC=C1)C=O | C6H5NO
solvent | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(2-hydroxy-ethyl)-3-pyridin-2-ylmethylene-1,3-dihydro-indol-2-one | 55 mg, 46% | OCCC1=C2C(C(NC2=CC=C1)=O)=CC1=NC=CC=C1 | C16H14N2O2
